US09281482B2
(1) synthesis of 3-(10-phenylanthracen-9-yl)-9H-carbazole
3-bromocarbazole (2.54 g, 10.320 mmol), 9-phenyl-boronic acid (3.69 g, 12.384 mmol), Na2CO3 (2.2 g, 20.64 mmol), Pd(PPh3)4 (1.19 g, 1.032 mmol) were put in a 250 mL two-neck flask and dissolved in toluene/ethanol/H2O. The solution was refluxed and stirred at 120° C. for 12 hours. After completion of the reaction, the solution was extracted with methylenechloride/H2O and distilled under reduced pressure to remove the solvent. The resultant was columned with a solution of n-hexane and methylenechloride (4:1) and was re-crystallized in a solution of methylene chloride and petroleum ether such that the white solid compound was obtained, (2.60 g, yield: 60%).

reactant | 3-bromocarbazole | 10.320 mmol, 2.54 g | BrC=1C=CC=2NC3=CC=CC=C3C2C1 | C12H8BrN
reactant | Na2CO3 | 20.64 mmol, 2.2 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | toluene ethanol H2O | C1(=CC=CC=C1)C.C(C)O.O
catalyst | Pd(PPh3)4 | 1.032 mmol, 1.19 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(10-phenylanthracen-9-yl)-9H-carbazole | yield: 60% | C1(=CC=CC=C1)C1=C2C=CC=CC2=C(C2=CC=CC=C12)C=1C=CC=2NC3=CC=CC=C3C2C1 | C32H21N
